US04472305
Condensation of BocDPheOH (2.65 g.) and HLeu-MetNH2 hydrochloride salt (Example 1, 2.98 g.) by the mixed anhydride method using isobutyl chloroformate gave BocDPhe-Leu-MetNH2 in 57% yield. De-t-butoxycarbonylation of BocDPhe-Leu-MetNH2 (2.7 g.) using hydrogen chloride in ethyl acetate gave HDPhe-Leu-MetNH2 hydrochloride salt in 82% yield.

reactant | BocDPhe-Leu-MetNH2 | 2.7 g | N([C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C25H40N4O5S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | HDPhe-Leu-MetNH2 hydrochloride | 82% yield | N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N.Cl | InChI=1S/C20H32N4O3S.ClH/c1-13(2)11-17(20(27)23-16(18(22)25)9-10-28-3)24-19(26)15(21)12-14-7-5-4-6-8-14;/h4-8,13,15-17H,9-12,21H2,1-3H3,(H2,22,25)(H,23,27)(H,24,26);1H/t15-,16+,17+;/m1./s1
